US08461331B2
A mixture of 250.2 g of metformin hydrochloride, 213.6 g of acetaldehyde diethyl acetal and 12.5 g of toluene-4-sulfonic acid monohydrate in 500 ml of isobutanol is heated under reflux for 40 hours. Some of the solvent is removed by distillation. The mixture is cooled to 10°, and the white precipitate is separated off, giving 224.7 g (77.4%) of 4-amino-3,6-dihydro-2-dimethylamino-6-methyl-1,3,5-triazine hydrochloride.

reactant | metformin hydrochloride | 250.2 g | CN(C)C(=N)N=C(N)N.Cl
reactant | acetaldehyde diethyl acetal | 213.6 g | C(C)OC(C)OCC | C6H14O2
solvent | isobutanol | 500 ml | C(C(C)C)O | C4H10O
catalyst | toluene-4-sulfonic acid monohydrate | 12.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-amino-3,6-dihydro-2-dimethylamino-6-methyl-1,3,5-triazine hydrochloride | 224.7 g, 77.4% | Cl.NC=1NC(=NC(N1)C)N(C)C | InChI=1S/C6H13N5.ClH/c1-4-8-5(7)10-6(9-4)11(2)3;/h4H,1-3H3,(H3,7,8,9,10);1H
